US09126970B2
Step b): Synthesis of (9,9-dimethyl-9H-fluoren-2-yl)phenylamine
50 g of bromo-9,9-dimethyl-9H-fluorene (183 mmol), 20 ml of aniline (220 mmol), 1.5 g of DPPF (2.7 mmol), 0.5 g of palladium(II)acetate and 45 g of sodium tert-butoxide (486 mmol) are heated at the boil in 1.5 l of toluene under a protective atmosphere for 18 h. The mixture is subsequently partitioned between toluene and water, and the organic phase is washed three times with water and dried over Na2SO4 and evaporated in a rotary evaporator. The residue which remains is recrystallised from heptane/ethyl acetate. The yield is 31.2 g (110 mmol, 52%).

reactant | bromo-9,9-dimethyl-9H-fluorene | 183 mmol, 50 g | BrC1=CC=CC=2C3=CC=CC=C3C(C12)(C)C | C15H13Br
reactant | aniline | 220 mmol, 20 ml | NC1=CC=CC=C1 | C6H7N
reactant | sodium tert-butoxide | 486 mmol, 45 g | CC(C)([O-])C.[Na+]
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
catalyst | DPPF | 2.7 mmol, 1.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium(II)acetate | 0.5 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (9,9-dimethyl-9H-fluoren-2-yl)phenylamine | CC1(C2=CC=CC=C2C=2C=CC(=CC12)NC1=CC=CC=C1)C | C21H19N
